US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (152 mg, 1.1 mmol) was dissolved in absolute ethanol (8 mL), then triethylamine (140 μL, 1.0 mmol) and 3-(bromomethyl)-2-chlorophenol (200 mg, 0.9 mmol) were added. The mixture was stirred overnight at room temperature. The solid was removed by filtration, and the filtrate was evaporated. The residue was dissolved in DCM and purified on silica gel using 10% DCM/MeOH to afford 2-{[(2-chloro-3-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol (87 mg, 37% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.22 (s, 3H), 4.11 (bs, 1H), 4.44 (s, 2H), 5.99 (bs, 1H), 6.88-6.91 (m, 1H), 7.01-7.10 (m, 2H), 10.24 (bs, 1H); LRMS (ES+) m/z 283 (100%, M+1), 285 (50%, M+3).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 1.1 mmol, 152 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 1.0 mmol, 140 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(bromomethyl)-2-chlorophenol | 0.9 mmol, 200 mg | BrCC=1C(=C(C=CC1)O)Cl | C7H6BrClO
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2-{[(2-chloro-3-hydroxyphenyl)methyl]sulfanyl}-6-methylpyrimidin-4-ol | 87 mg, 37% yield | ClC1=C(C=CC=C1O)CSC1=NC(=CC(=N1)O)C | C12H11ClN2O2S
